US08357703B2
b) 2-(3-Butyl-5-methyl-isoxazol-4-ylmethyl)-isoindole-1,3-dione
Phthalimide potassium was suspended in DMF (35 mL) and the reaction mixture heated to 90° C. A solution of 3-butyl-4-chloromethyl-5-methyl-isoxazole (970 mg, 5.2 mmol) in DMF (25 mL) was added. After 45 min the reaction mixture was cooled, evaporated and the residue obtained was diluted with water then extracted with ether. The combined organic extracts were dried, filtered and concentrated then purified by chromatography (silica, 0 to 50% ethyl acetate in heptane) to give the title compound (1.21 g, 78%) as an off white solid that was used directly in the next step.

reactant | Phthalimide potassium | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
reactant | 3-butyl-4-chloromethyl-5-methyl-isoxazole | 5.2 mmol, 970 mg | C(CCC)C1=NOC(=C1CCl)C | C9H14ClNO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-Butyl-5-methyl-isoxazol-4-ylmethyl)-isoindole-1,3-dione | 1.21 g, 78% | C(CCC)C1=NOC(=C1CN1C(C2=CC=CC=C2C1=O)=O)C | C17H18N2O3
